US04186205
2,3-Di(4-chlorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole
A mixture of 6.2 g (0.018 mol) of 2-bromo-1,2-di-(4-chlorophenyl)ethanone and 4.6 g (0.054 mol) of 2-amino-4,5-dihydro-3H-pyrrole in 60 ml of dry N,N-dimethylformamide was stirred at 25° with exclusion of water for five days. The mixture was then poured into water and the aqueous solution was extracted three times with methylene chloride. The extracts were combined and washed eight times with water, dried (K2CO3) and evaporated. The residue was chromatographed on silica gel (dry column) with 1% tetrahydrofuran in chloroform and 5% tetrahydrofuran in chloroform as eluants. The product-containing section was washed with methanol to remove the product which was, after evaporation of the methanol, recrystallized from methanol-water to give the title compound, m.p. 189°-192°.

reactant | 2-bromo-1,2-di-(4-chlorophenyl)ethanone | 0.018 mol, 6.2 g | BrC(C(=O)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C14H9BrCl2O
reactant | 2-amino-4,5-dihydro-3H-pyrrole | 0.054 mol, 4.6 g | NC1=NCCC1 | C4H8N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2,3-Di(4-chlorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-a]imidazole | ClC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=C(C=C1)Cl)CCC2 | C18H14Cl2N2
